US07514567B2
(b) (R)-3′-(2-(4-Pyridyl)thiophen-4-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analogous to that described in Preparation 3 from (S)-spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and 4-bromo-2-(4-pyridyl)thiophene using 2 equivalents of copper (I) iodide. The title compound (1.70 g) was obtained as a pale-yellow solid, m/z 342 (MH+).

reactant | (S)-spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | O1C(NC[C@@]12CN1CCC2CC1)=O | C9H14N2O2
reactant | 4-bromo-2-(4-pyridyl)thiophene | 2 equivalents | BrC=1C=C(SC1)C1=CC=NC=C1 | C9H6BrNS
catalyst | copper (I) iodide | [Cu]I
product | (R)-3′-(2-(4-Pyridyl)thiophen-4-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 1.70 g | N1=CC=C(C=C1)C=1SC=C(C1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C18H19N3O2S
